US04072583
Employing the apparatus and procedure described in EXAMPLE 3 above, the cathode compartment was charged with 100 milliliters of 0.3 molar sodium iodide in dry acetonitrile (dried as described in Procedure A, EXAMPLE 1 above), 2.6 grams (0.02 mole) of N-methyldiglycolimide, and 3.2 grams (0.01 mole of tetraethyl ethenetetracarboxylate and the anode compartment was charged with 30 milliliters of the 0.3 molar sodium iodide in dry acetonitrile solution. Electrolysis was conducted as described in Procedure A, EXAMPLE 1 above for 4.2 hours. Upon completion of the electrolysis, the cell was transferred to the dry box and the catholyte, containing precipitated material, was separated from the mercury pool. The solvent was evaporated in vacuo to leave a residue which was mixed with water. Evolution of gas immediately ensued and a portion of the solid material dissolved. The undissolved solid was collected by suction filtration to give a quantitative yield of tetraethyl ethane-1,1,-2,2,-tetracarboxylate. Evaporation of the filtrate in vacuo yielded 2.03 grams (52 percent) of sodium N-methyldiglycolimide-3-carboxylate.

reactant | sodium iodide | 0.3 molar, 100 milliliters | [I-].[Na+]
reactant | N-methyldiglycolimide | 0.02 mole, 2.6 grams | CN1C(COCC1=O)=O | C5H7NO3
reactant | tetraethyl ethenetetracarboxylate | 0.01 mole | CCOC(=O)C(=C(C(=O)OCC)C(=O)OCC)C(=O)OCC | C14H20O8
reactant | sodium iodide | 0.3 molar | [I-].[Na+]
reactant | water | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
product | tetraethyl ethane-1,1,-2,2,-tetracarboxylate | quantitative yield | C(C(C(=O)OCC)C(=O)OCC)(C(=O)OCC)C(=O)OCC | C14H22O8
